US08211923B2
tert-butyl 5-amino-2,3-dihydro-indole-1-carboxylate
6.8 g tert-butyl 5-nitro-2,3-dihydro-indole-1-carboxylate are dissolved in 120 ml of methanol. To this are added 600 mg of palladium on charcoal (10%) and the mixture is hydrogenated for 1.5 hours at ambient temperature. Then the catalyst is filtered off and the solvent is eliminated in vacuo.

reactant | tert-butyl 5-nitro-2,3-dihydro-indole-1-carboxylate | 6.8 g | [N+](=O)([O-])C=1C=C2CCN(C2=CC1)C(=O)OC(C)(C)C | C13H16N2O4
solvent | methanol | 120 ml | CO | CH4O
catalyst | palladium on charcoal | 600 mg | [Pd] | Pd
product | tert-butyl 5-amino-2,3-dihydro-indole-1-carboxylate | NC=1C=C2CCN(C2=CC1)C(=O)OC(C)(C)C | C13H18N2O2
